US07662831B2
Nitric acid (1.2 mL, 22 mmol) was added dropwise to a mixture of 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline (2.0 g, 8.9 mmol) and concentrated sulfuric acid (43 mL). The reaction mixture was stirred for 1 hour and then poured into water and extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and concentrated. The crude material was purified by flash column chromatography (elution with 12% ethyl acetate-hexanes) to provide 2-nitro-8-oxo-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline.

reactant | Nitric acid | 22 mmol, 1.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline | 8.9 mmol, 2.0 g | C1=CC=C2CCCN3C2=C1C1=C3CCCCC1 | C16H19N
reactant | sulfuric acid | 43 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-nitro-8-oxo-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline | [N+](=O)([O-])C=1C=C2CCCN3C2=C(C1)C1=C3C(CCCC1)=O | C16H16N2O3
